US07423035B2
5-hydroxy-8-{1-hydroxy-2-[(1-phenyl-cyclopropylmethyl)-amino]-ethyl}-4H-benzo[1,4]oxazin-3-one
Prepared from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 147 mg (1 mmol) C-(1-phenyl-cyclopropyl)-methylamine. Final purification by chromatography (silica gel; dichloromethane/methanol gradient). Yield: 30 mg (8%); mass spectroscopy: [M+H]+=355.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | C-(1-phenyl-cyclopropyl)-methylamine | 1 mmol, 147 mg | C1(=CC=CC=C1)C1(CC1)CN | C10H13N
product | 5-hydroxy-8-{1-hydroxy-2-[(1-phenyl-cyclopropylmethyl)-amino]-ethyl}-4H-benzo[1,4]oxazin-3-one | OC1=CC=C(C2=C1NC(CO2)=O)C(CNCC2(CC2)C2=CC=CC=C2)O | C20H22N2O4
